US07935716B2
213 mg of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate and 120 mg of 5-amino-3-ethyl-1,2,4-thiadiazole were added to 2.5 ml of bromobenzene, then, the mixture was stirred for 4 hours under heat refluxing condition. The reaction mixture was cooled to room temperature. The resulting solid was collected by filtration, and washed with a mixed solvent of t-butyl methyl ether and hexane and dried to obtain 231 mg of 1,6-dimethyl-N-(3-ethyl-1,2,4-thiadiazol-5-yl)-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide (hereinafter, referred to as present compound 19) represented by the formula:

reactant | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate | 213 mg | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
reactant | 5-amino-3-ethyl-1,2,4-thiadiazole | 120 mg | NC1=NC(=NS1)CC | C4H7N3S
reactant | bromobenzene | 2.5 ml | BrC1=CC=CC=C1 | C6H5Br
product | 1,6-dimethyl-N-(3-ethyl-1,2,4-thiadiazol-5-yl)-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide | 231 mg | CN1C(C(=C(C=C1C)O)C(=O)NC1=NC(=NS1)CC)=O | C12H14N4O3S
